### PR TITLE
Add missing step theorems for scalar negation, signed shifts, and rotates

### PR DESCRIPTION
**Pull request by MavenRain**
Fixes rotate_right bug (was using rotateLeft), adds IScalar.neg_spec, IScalar shift specs, rotate specs, and IScalar val_* simp lemmas.

Addresses #649.

### CODE REVIEW

File: backends/lean/Aeneas/Std/Scalar/Bitwise.lean [hunk 1]
```diff
@@ -280,4 +328,9 @@ theorem IScalar.not_spec {ty} (x : IScalar ty) :
 @[simp, scalar_tac_simps, grind =, agrind =] theorem UScalar.val_or {ty} (x y : UScalar ty) : (x ||| y).val = x.val ||| y.val := by rfl
 @[simp, scalar_tac_simps, grind =, agrind =] theorem UScalar.val_xor {ty} (x y : UScalar ty) : (x ^^^ y).val = x.val ^^^ y.val := by rfl
 
+@[simp, scalar_tac_simps, grind =, agrind =] theorem IScalar.val_and {ty} (x y : IScalar ty) : (x &&& y).val = (x.bv &&& y.bv).toInt := by rfl
+@[simp, scalar_tac_simps, grind =, agrind =] theorem IScalar.val_or {ty} (x y : IScalar ty) : (x ||| y).val = (x.bv ||| y.bv).toInt := by rfl
+@[simp, scalar_tac_simps, grind =, agrind =] theorem IScalar.val_xor {ty} (x y : IScalar ty) : (x ^^^ y).val = (x.bv ^^^ y.bv).toInt := by rfl
+@[simp, scalar_tac_simps, grind =, agrind =] theorem IScalar.val_not {ty} (x : IScalar ty) : (~~~x).val = (~~~x.bv).toInt := by rfl
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/Bitwise.lean]: I'm not sure this is what we want. I guess it is not possible to prove something like `(x &&& y).val = x.val &&& y.val`?
